US07307076B2
a) 8-benzyloxy-5-{1-hydroxy-2-[2-(4-methoxy-phenyl)-1,1-dimethyl-ethylamino]-ethyl}-1H-quinolin-2-one
587 mg (2 mmol) 8-benzyloxy-5-oxiranyl-1H-quinolin-2-one and 358 mg (2 mmol) 2-(4-methoxy-phenyl)-1,1-dimethyl-ethylamine are stirred in 5 mL n-butanol for 6 hours at 140° C. Then the solvent is distilled off and the residue is purified by chromatography (reverse phase; water/acetonitrile gradient).

reactant | 8-benzyloxy-5-oxiranyl-1H-quinolin-2-one | 2 mmol, 587 mg | C(C1=CC=CC=C1)OC=1C=CC(=C2C=CC(NC12)=O)C1OC1 | C18H15NO3
reactant | 2-(4-methoxy-phenyl)-1,1-dimethyl-ethylamine | 2 mmol, 358 mg | COC1=CC=C(C=C1)CC(C)(C)N | C11H17NO
solvent | n-butanol | 5 mL | C(CCC)O | C4H10O
product | 8-benzyloxy-5-{1-hydroxy-2-[2-(4-methoxy-phenyl)-1,1-dimethyl-ethylamino]-ethyl}-1H-quinolin-2-one | C(C1=CC=CC=C1)OC=1C=CC(=C2C=CC(NC12)=O)C(CNC(CC1=CC=C(C=C1)OC)(C)C)O | C29H32N2O4
